US07446222B2
5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″carboxylic acid ethyl ester
A mixture of 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester (50 mg, 0.14 mmol), potassium carbonate (48 mg, 0.35 mmol), and 1-bromo-3-methylbutane (23.5 mg, 0.15 mmol) was heated in N,N′-dimethylformamide (3 ml) at 90° C. for 4 hours. The reaction mixture was then poured into water and extracted with ethyl acetate; the organic layers were dried over MgSO4 and evaporated. The residue was chromatographed through a SPE column using 10% ethyl acetate in iso-hexane as eluent to yield the title compound as a white solid (45 mg, 75%).

reactant | 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 0.14 mmol, 50 mg | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)O | C21H17ClO3
reactant | potassium carbonate | 0.35 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methylbutane | 0.15 mmol, 23.5 mg | BrCCC(C)C | C5H11Br
reactant | water | O | H2O
solvent | N,N′-dimethylformamide | 3 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″carboxylic acid ethyl ester | 45 mg, 75% | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCCC(C)C | C26H27ClO3
